US05438052
(6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[5-(hydroxycarbamoyl)-2-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid and 36.9 mg (0.121 mmol) of 1-[2-(aminooxy)-2-methylpropionyl]-2-(3,4-dihydroxybenzoyl)hydrazine hydrochloride (55 mg) (0.093 mmol) are dissolved in 7 ml of absolute dimethylacetamide. After stirring at room temperature for 20 hours a further 18.4 mg (0.060 mmol) of 1-[2-(aminooxy)-2-methylpropionyl]-2-(3,4-dihydroxybenzoyl)hydrazine hydrochloride are added. After a further 24 hours the solvent is removed at room temperature in a high vacuum and the residue is treated with water. The precipitated product is filtered off, washed well with water and dried at room temperature in a high vacuum. There are obtained 37 mg of (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[1-[3-(3,4-dihydroxybenzoyl)carbazoyl]-1-methylethoxy]imino]acetamido]-3-[[[5-(hydroxycarbamoyl)-2-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a beige powder.

reactant | (6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[5-(hydroxycarbamoyl)-2-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)C)C(NO)=O)=O | C20H17N9O7S3
reactant | 1-[2-(aminooxy)-2-methylpropionyl]-2-(3,4-dihydroxybenzoyl)hydrazine hydrochloride | 0.121 mmol, 36.9 mg | Cl.NOC(C(=O)NNC(C1=CC(=C(C=C1)O)O)=O)(C)C
reactant | 1-[2-(aminooxy)-2-methylpropionyl]-2-(3,4-dihydroxybenzoyl)hydrazine hydrochloride | 0.060 mmol, 18.4 mg | Cl.NOC(C(=O)NNC(C1=CC(=C(C=C1)O)O)=O)(C)C
solvent | dimethylacetamide | 7 ml | CC(=O)N(C)C | C4H9NO
product | (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[1-[3-(3,4-dihydroxybenzoyl)carbazoyl]-1-methylethoxy]imino]acetamido]-3-[[[5-(hydroxycarbamoyl)-2-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 37 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)C)C(NO)=O)=N/OC(C)(C)C(NNC(C2=CC(=C(C=C2)O)O)=O)=O | C31H30N12O11S3
